US05114936
To a solution consisting of 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one (3.75 g) and dimethylformamide (37.0 ml) was added diisopropylethyl amine (6.81 ml), pyrrolidine (2.17 ml) and sodium iodide (5.85 g) at room temperature with stirring. The reaction was flushed with nitrogen and warmed at 73°-76° C. for 1.25-2 hours. Upon cooling to room temperature, dilute aqueous sodium bicarbonate and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous layer extracted twice with ethyl acetate and once with ether. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, 2% triethylamine/0-10% methanol/ether) afforded 3.10 g of 6,7-dihydro-3-phenyl-5-[3-(1-pyrrolidinyl)-propyl]-1,2-benzisoxazol-4(5H)-one as an oil which solidified on standing. The salicylate was prepared with 1.07 eq. salicylic acid in ether. The resulting solid was redissolved with methanol. Addition of pentane led to precipitation of the target salt. Filtration and washing with pentane gave 6,7-dihydro-3-phenyl-5-[3-(1-pyrrolidinyl)-propyl]-1,2-benzisoxazol-4(5H)-one salicylate, m.p. 106°-107° C.

reactant | 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 3.75 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C16H16ClNO2
reactant | diisopropylethyl amine | 6.81 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 2.17 ml | N1CCCC1 | C4H9N
reactant | sodium iodide | 5.85 g | [I-].[Na+]
solvent | dimethylformamide | 37.0 ml | CN(C=O)C | C3H7NO
product | 6,7-dihydro-3-phenyl-5-[3-(1-pyrrolidinyl)-propyl]-1,2-benzisoxazol-4(5H)-one | 3.10 g | C1(=CC=CC=C1)C1=NOC2=C1C(C(CC2)CCCN2CCCC2)=O | C20H24N2O2
